US04201784
2-[2'-(5"-nitrofuryl-2")vinyl]quinoline-4-carboxylic acid (α-methyl-δ-diethylaminobutyl)amide was prepared from 1.58 g (0.01 mol.) of diethylamino-4-aminopentane and 3.65 g (0.01 mol.) of 2-[2'-(5"-nitrofuryl-2")vinyl]quinoline-4-carboxylic acid chloride hydrochloride in 50 ml of water in the presence of triethylamine. The process was conducted as described in Example 5.

reactant | diethylamino-4-aminopentane | 0.01 mol, 1.58 g | C(C)N(CC)CCCC(C)N | C9H22N2
reactant | quinoline-4-carboxylic acid chloride hydrochloride | Cl.N1=CC=C(C2=CC=CC=C12)C(=O)Cl
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | water | 50 ml | O | H2O
product | quinoline-4-carboxylic acid (α-methyl-δ-diethylaminobutyl)amide | CC(CCCN(CC)CC)NC(=O)C1=CC=NC2=CC=CC=C12 | C19H27N3O
